Title: LM193 / Prerad
*************************************

*Voltage Source
VCC 5 0 DC 15V
VEE 8 0 DC 0V

VOUT 7 0 DC 5V

*********************

X1 5 8 1 2 3 LM193_sc
RR3 3 7 5k

RR1 1 6 0
RR2 2 0 0
VP 6 0 DC 0V

*Input
.dc VP -0.01 0.01 0.00001

*Output
.print dc format=noindex file={output_filename}
+ V(6)
+ V(3)
+ {(I(RR2)+I(RR1))/2}
+ {I(RR2)-I(RR1)}

